### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): the injective derivability structure on the homotopy category

### PR DESCRIPTION
**Pull request by joelriou**
---

The `large-import` label can be safely ignored as it concerns only a newly added file.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 1]
```diff
@@ -22,18 +25,79 @@ that it is a right derivability structure. (The proof proceeds by showing that
 up to equivalences of categories, this functor is the inclusion of the full
 subcategory of fibrant objects in the model category `CochainComplex.Plus C`.)
 
-TODO(@joelriou): obtain similar results for the bounded below homotopy category.
+We also obtain a similar right derivability structure `HomotopyCategory.Plus.localizerMorphism`
+for the functor `HomotopyCategory.Plus (InjectiveObject C) ⥤ HomotopyCategory.Plus C`, where
+The target category is equipped with the class of quasi-isomorphisms while
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
the target category is equipped with the class of quasi-isomorphisms while
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 2]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+  functor := (InjectiveObject.ι C).mapHomotopyCategoryPlus
+  map K L f (hf : IsIso f) := by
+    dsimp only [MorphismProperty.inverseImage, HomotopyCategory.Plus.quasiIso]
+    rw [HomotopyCategory.mem_quasiIso_iff]
+    intro n
+    infer_instance
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency false in
+lemma isIso_quotient_map
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
lemma isIso_quotient_map_iff
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 3]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+    ← isIso_iff_of_reflects_iso _ (Functor.mapHomotopyCategory (InjectiveObject.ι C) (.up ℤ))]
+  dsimp
+  rw [HomologicalComplex.isIso_quotient_map_iff_homotopyEquivalences,
+    ← CochainComplex.IsKInjective.quasiIso_iff]
+  rfl
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency false in
+open HomologicalComplex in
+lemma inverseImage_quasiIso_mapCochainComplexPlus_injectivesι :
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
lemma inverseImage_quasiIso_mapCochainComplexPlus_injectiveObjectι :
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 4]
```diff
@@ -22,18 +25,79 @@ that it is a right derivability structure. (The proof proceeds by showing that
...
+set_option backward.defeqAttrib.useBackward true in
+instance (K : CochainComplex.Plus (InjectiveObject C)) :
+    CochainComplex.IsKInjective
+      (((InjectiveObject.ι C).mapHomologicalComplex (.up ℤ)).obj K.obj) := by
+  obtain ⟨K, n, hn⟩ := K
+  let L := ((InjectiveObject.ι C).mapHomologicalComplex (.up ℤ)).obj K
+  have (n : ℤ) : Injective (L.X n) := by dsimp [L]; infer_instance
+  exact CochainComplex.isKInjective_of_injective L n
+
+lemma exists_injective_resolution [EnoughInjectives C]
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]: Maybe?
```suggestion
lemma exists_injective_quasiIso [EnoughInjectives C]
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 5]
```diff
@@ -22,18 +25,79 @@ that it is a right derivability structure. (The proof proceeds by showing that
...
+        quasiIso C i := by
+  obtain ⟨L, i, _, _, _⟩ := modelCategoryQuillen.exists_quasiIso_injective K.obj n
+  let L' : CochainComplex (InjectiveObject C) ℤ :=
+    HomologicalComplex.liftObjectProperty _ L inferInstance
+  have hL' : L'.IsStrictlyGE n := by
+    rw [CochainComplex.isStrictlyGE_iff]
+    intro i hi
+    rw [IsZero.iff_id_eq_zero]
+    ext
+    exact (L.isZero_of_isStrictlyGE n i).eq_of_src _ _
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]: How about adding some lemmas like this:
```
lemma _root_.CochainComplex.isStrictlyGE_mapHomologicalComplex
    {V V' : Type*} [Category* V] [Category* V']
    [Preadditive V] [Preadditive V']
    (F : V ⥤ V') (K : CochainComplex V ℤ) [F.PreservesZeroMorphisms]
    (n : ℤ) [K.IsStrictlyGE n] :
    CochainComplex.IsStrictlyGE ((F.mapHomologicalComplex _).obj K) n := by
  rw [CochainComplex.isStrictlyGE_iff]
  intro i hi
  rw [IsZero.iff_id_eq_zero]
  exact (F.map_isZero <| K.isZero_of_isStrictlyGE n i).eq_of_src _ _

lemma _root_.CochainComplex.isStrictlyGE_iff_mapHomologicalComplex
    {V V' : Type*} [Category* V] [Category* V']
    [Preadditive V] [Preadditive V']
    (F : V ⥤ V') (K : CochainComplex V ℤ) [F.PreservesZeroMorphisms]
    [F.Full] [F.Faithful]
    (n : ℤ) :
    CochainComplex.IsStrictlyGE ((F.mapHomologicalComplex _).obj K) n ↔ K.IsStrictlyGE n := by
  refine ⟨fun h ↦ ?_, fun h ↦ CochainComplex.isStrictlyGE_mapHomologicalComplex _ _ _⟩
  rw [CochainComplex.isStrictlyGE_iff]
  intro i hi
  refine .of_full_of_faithful_of_isZero F _ ?_
  apply CochainComplex.isZero_of_isStrictlyGE
    ((F.mapHomologicalComplex (ComplexShape.up ℤ)).obj K) n i
```
With this, the proof can become:

```suggestion
  have hL' : L'.IsStrictlyGE n := by
      rwa [← CochainComplex.isStrictlyGE_iff_mapHomologicalComplex (InjectiveObject.ι _)]
```
(The same proof can be used in the construction of `fibrantObjectEquivalence` below)

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 6]
```diff
@@ -22,18 +25,79 @@ that it is a right derivability structure. (The proof proceeds by showing that
...
+  exact ⟨⟨L', n, hL'⟩, hL', ObjectProperty.homMk i, by assumption⟩
+
+end CochainComplex.Plus
+
+namespace DerivedCategory.Plus
+
+variable [HasDerivedCategory C]
+
+lemma exists_injective_resolution [EnoughInjectives C] (K : DerivedCategory.Plus C)
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]: Maybe?
```suggestion
lemma exists_injective_nonempty_iso [EnoughInjectives C] (K : DerivedCategory.Plus C)
```
If you change the name, it would probably be nice to mention "injective resolution" in the docstring, this way one can find it easily when searching the source code.

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 7]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+  LocalizerMorphism.IsLocalizedEquivalence.of_isLocalization_of_isLocalization
+    (R C) ((quasiIso C).Q)
+
+variable (C) in
+/-- The "commutative" square of functors involving the underlying functors
+of the localizer morphisms `CochainComplex.Plus.localizerMorphism C`
+and `HomotopyCategory.Plus.localizerMorphism C`. -/
+private def iso :
+    (CochainComplex.Plus.localizerMorphism C).functor ⋙ (R C).functor ≅
+  (L C).functor ⋙ (localizerMorphism C).functor := Iso.refl _
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
    (L C).functor ⋙ (localizerMorphism C).functor := Iso.refl _
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 8]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+    have := Localization.inverts DerivedCategory.Plus.Qh _ _ r.hw
+    exact ⟨r.X₁, ⟨(asIso (DerivedCategory.Plus.Qh.map r.w)).symm ≪≫
+      DerivedCategory.Plus.Qh.objObjPreimageIso K⟩⟩
+
+section
+
+variable (F : HomotopyCategory.Plus C ⥤ H)
+
+omit [EnoughInjectives C] in
+lemma localizerMorphism_derives : (localizerMorphism C).Derives F :=
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean:364]:
```suggestion
lemma derives_localizerMorphism : (localizerMorphism C).Derives F :=
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 9]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+from the file `Mathlib/CategoryTheory/GuitartExact/Quotient.lean`.
+
+-/
+
+open MorphismProperty
+
+variable (C) in
+/-- The left localizer morphism in the Guitart exact square `iso`. -/
+private abbrev L : LocalizerMorphism
+  ((CochainComplex.Plus.quasiIso C).inverseImage (InjectiveObject.ι C).mapCochainComplexPlus)
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
    ((CochainComplex.Plus.quasiIso C).inverseImage (InjectiveObject.ι C).mapCochainComplexPlus)
```

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 10]
```diff
@@ -119,3 +179,225 @@ instance : (localizerMorphism C).arrow.HasRightResolutions := by
...
+with respect to quasi-isomorphisms. -/
+instance : F.HasPointwiseRightDerivedFunctor (HomotopyCategory.Plus.quasiIso C) :=
+  (localizerMorphism_derives F).hasPointwiseRightDerivedFunctor
+
+variable [HasDerivedCategory C] (F' : DerivedCategory.Plus C ⥤ H)
+  (α : F ⟶ DerivedCategory.Plus.Qh ⋙ F')
+  [F'.IsRightDerivedFunctor α (HomotopyCategory.Plus.quasiIso C)]
+
+instance (K : HomotopyCategory.Plus C) [(∀ (n : ℤ), Injective (K.obj.as.X n))] :
+    IsIso (α.app K) := by
```
Comment (chrisflav) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean:377]: Will we (in the future) be able to deduce from this that one can compute the derived functor using `H`-acyclic resolutions?

Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean:377]: It will not be an immediate implication, but I think I have already formalized this somewhere.

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean:364]: After discussion, we agreed not to change this.

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]: I have used `exists_quasiIso_injective` because this was the name of a similar lemma in another namespace.

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]: Thanks very much for the suggestion!

**Comment by joelriou** [comment]
Thanks very much @chrisflav for the reviews!

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 11]
```diff
@@ -79,19 +144,15 @@ def fibrantObjectEquivalence :
       (fun K n ↦ by dsimp; infer_instance)) (by
         rintro ⟨⟨K, n, hn⟩, _⟩
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean]:
```suggestion
        rintro ⟨⟨_, n, _⟩, _⟩
```

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
